US07208450B2
Step D Synthesis of 3,5-dichloro-4-(3-hydroxypropoxy)phenol as an intermediate
This compound was prepared in a manner analogous to that of Step B of Example 1, by the treatment of 11.8 grams (0.036 mole) of 3-[2,6-dichloro-4-(phenylmethoxy)phenoxy]propan-1-ol with hydrogen gas in the presence of a catalytic amount of 10% palladium on carbon in ethanol using a Parr hydrogenation apparatus. Following the theoretical uptake of hydrogen, the reaction mixture was and filtered and concentrated under reduced pressure to a residue, yielding 8.0 grams of the subject compound.

reactant | 3-[2,6-dichloro-4-(phenylmethoxy)phenoxy]propan-1-ol | 0.036 mole, 11.8 grams | ClC1=C(OCCCO)C(=CC(=C1)OCC1=CC=CC=C1)Cl | C16H16Cl2O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 3,5-dichloro-4-(3-hydroxypropoxy)phenol | 8.0 grams | ClC=1C=C(C=C(C1OCCCO)Cl)O | C9H10Cl2O3
